### PR TITLE
[Merged by Bors] - feat: definition of Gromov product

### PR DESCRIPTION
**Pull request by katyhr**
This PR defines the Gromov product which is a prerequisite for defining hyperbolic metric space.

Co-Authored-By: Hang Lu Su <hanglu.su@pm.me> 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Welcome to mathlib and thanks for your PR! Can you run `lake exe mk_all --git` (from a terminal, e.g. the built-in one in VS Code) and commit the result? This will make sure that `Mathlib.lean` is updated to include the new file you're adding here. Thanks!

**Comment by katyhr** [comment]
> Welcome to mathlib and thanks for your PR! Can you run `lake exe mk_all --git` (from a terminal, e.g. the built-in one in VS Code) and commit the result? This will make sure that `Mathlib.lean` is updated to include the new file you're adding here. Thanks!

Thank you and done! Sorry about that

File: Mathlib/Topology/MetricSpace/GromovProduct.lean [hunk 1]
```diff
@@ -0,0 +1,64 @@
...
+## Tags
+
+Gromov product
+-/
+
+@[expose] public section
+
+namespace Metric
+
+variable {X : Type*} [PseudoMetricSpace X]
```
Comment (tb65536) [inline Mathlib/Topology/MetricSpace/GromovProduct.lean]: Variables might be good here:
```suggestion
variable {X : Type*} [PseudoMetricSpace X] (x y z : X)
```

File: Mathlib/Topology/MetricSpace/GromovProduct.lean [hunk 2]
```diff
@@ -0,0 +1,64 @@
...
+
+/-- The Gromov product of `y` and `z` with respect to `x`. -/
+noncomputable def gromovProduct (x y z : X) : ℝ := (dist x y + dist x z - dist y z) / 2
```
Comment (tb65536) [inline Mathlib/Topology/MetricSpace/GromovProduct.lean]: Can you add a lemma `gromovProduct_eq` or `gromovProduct_def` (so that you can avoid breaking through the definition in all of the subsequent proofs). This would also help if there are any future refactors down the line.

File: Mathlib/Topology/MetricSpace/GromovProduct.lean [hunk 3]
```diff
@@ -0,0 +1,64 @@
...
+lemma gromovProduct_self_right (x y : X) : gromovProduct x y x = 0 := by
+  simp [gromovProduct, dist_comm]
+
+@[simp]
+lemma gromovProduct_self_centre (x y : X) : gromovProduct x y y = dist x y := by
+  simp [gromovProduct]
+
+@[simp]
+lemma gromovProduct_add_gromovProduct (x y z : X) : gromovProduct x y z + gromovProduct z y x =
+    dist x z := by
```
Comment (tb65536) [inline Mathlib/Topology/MetricSpace/GromovProduct.lean]: Can you add `gromovProduct x y z + gromovProduct y x z = dist x y`? Maybe these should be disambiguated with `left` and `right`?

File: Mathlib/Topology/MetricSpace/GromovProduct.lean [hunk 4]
```diff
@@ -0,0 +1,64 @@
...
+@[simp]
+lemma gromovProduct_self_left (x y : X) : gromovProduct x x y = 0 := by
+  simp [gromovProduct]
+
+@[simp]
+lemma gromovProduct_self_right (x y : X) : gromovProduct x y x = 0 := by
+  simp [gromovProduct, dist_comm]
+
+@[simp]
+lemma gromovProduct_self_centre (x y : X) : gromovProduct x y y = dist x y := by
```
Comment (tb65536) [inline Mathlib/Topology/MetricSpace/GromovProduct.lean]: Maybe just `gromovProduct_self` (viewing the first variable as separate?)
```suggestion
lemma gromovProduct_self (x y : X) : gromovProduct x y y = dist x y := by
```

**Comment by katyhr** [comment]
-awaiting-author

File: Mathlib/Topology/MetricSpace/GromovProduct.lean [hunk 5]
```diff
@@ -0,0 +1,77 @@
...
+lemma gromovProduct_self : gromovProduct x y y = dist x y := by
+  simp [gromovProduct_eq]
+
+lemma gromovProduct_add_gromovProduct₁₃ : gromovProduct x y z + gromovProduct z y x = dist x z := by
+  grind [gromovProduct_eq, dist_comm]
+
+lemma gromovProduct_add_gromovProduct₁₂ : gromovProduct x y z + gromovProduct y x z = dist x y := by
+  grind [gromovProduct_eq, dist_comm]
+
+
```
Comment (vlad902) [inline Mathlib/Topology/MetricSpace/GromovProduct.lean]:
```suggestion

```

File: Mathlib/Topology/MetricSpace/GromovProduct.lean [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+## Implementation notes
+
+We intentionally omit grind tags which would introduce `dist` terms in general proofs about
+`gromovProduct`, to avoid introducing the dist-theory.
+In proofs where it is useful to convert `gromovProduct` to a `dist`, users should feel free to add
+the relevant lemmas to the `grind [...]` list in an application.
+-/
+
+@[expose] public section
```
Comment (vlad902) [inline Mathlib/Topology/MetricSpace/GromovProduct.lean]: We have a lemma below showing the equivalence with the definition, so I think we don't need `@[expose]`
```suggestion
public section
```

File: Mathlib/Topology/MetricSpace/GromovProduct.lean [hunk 7]
```diff
@@ -0,0 +1,77 @@
...
+lemma gromovProduct_le_dist_right : gromovProduct x y z ≤ dist x z := by
+  grind [gromovProduct_le_dist_left]
+
+@[simp, grind =]
+lemma gromovProduct_self_left : gromovProduct x x y = 0 := by
+  simp [gromovProduct_eq]
+
+@[simp, grind =]
+lemma gromovProduct_self_right : gromovProduct x y x = 0 := by
+  simp [gromovProduct, dist_comm]
```
Comment (vlad902) [inline Mathlib/Topology/MetricSpace/GromovProduct.lean]: Could this also be `gromovProduct_eq`? I haven't tried it.
```suggestion
  simp [gromovProduct_eq, dist_comm]
```

**Comment by Whysoserioushah** [comment]
Thanks!

maintainer merge

**Comment by b-mehta** [comment]
Nice, thanks!

bors merge
